US05824691
The mixture of methyl 5-(3-dimethylamino-1-oxo-2-propenyl)-3-pyridinecarboxylate (1.7 g), acetic acid (0.62 ml) and hydrazine monohydrate (0.53 ml) in methanol (34 ml) was stirred for 24 hours at ambient temperature, and the mixture was evaporated in vacuo. To the residue was added a mixture of tetrahydrofuran, ethyl acetate and water, and the mixture was adjusted to pH 9 with potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed by concentration and the residue was triturated with diisopropyl ether to give methyl 5-(pyrazol-3-yl)-3-pyridinecarboxylate (1.24 g).

reactant | methyl 5-(3-dimethylamino-1-oxo-2-propenyl)-3-pyridinecarboxylate | 1.7 g | CN(C=CC(=O)C=1C=C(C=NC1)C(=O)OC)C | C12H14N2O3
reactant | acetic acid | 0.62 ml | C(C)(=O)O | C2H4O2
reactant | hydrazine monohydrate | 0.53 ml | O.NN
solvent | methanol | 34 ml | CO | CH4O
product | methyl 5-(pyrazol-3-yl)-3-pyridinecarboxylate | 1.24 g | N1N=C(C=C1)C=1C=C(C=NC1)C(=O)OC | C10H9N3O2
